US06897210B2
Bromoacetaldehyde dimethyl acetal (0.74 ml, 3.1 mmol) was added to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (1.0 g, 3.13 mmol), (prepared as described for the starting material in Example 2), and anhydrous potassium carbonate (2.16 g, 15.6 mmol) in DMF (30 ml). The mixture was stirred and heated at 110° C. for 4 hours, then allowed to cool and the volatiles were removed by evaporation. Water was added to the residue and the aqueous mixture was extracted with methylene chloride (×4). The extracts were combined, washed with brine and dried by filtration through phase separating paper. The volatiles were removed by evaporation, the residue was triturated with ether, collected by filtration and dried to give 44-chloro-2-fluoroanilino)7-(2,2-dimethoxyethoxy6-methoxyquinazoline (440 mg, 35%).

reactant | Bromoacetaldehyde dimethyl acetal | 3.1 mmol, 0.74 ml | COC(CBr)OC | C4H9BrO2
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 3.13 mmol, 1.0 g | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 15.6 mmol, 2.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2,2-dimethoxyethoxy6-methoxyquinazoline | 440 mg, 35% | COC(COC1=NC2=CC=C(C=C2C=N1)OC)OC | C13H16N2O4
